US07268135B2
To a round-bottom flask was added 4-Bromo-benzenesulfonyl chloride (24.37 g, 95.4 mmol, 1 equiv), anhydrous methylene chloride (350 mL), and H-D-Val-OtBu (20 g, 95.4 mmol, 1 equiv.). The mixture was cool to 0° C. followed by the addition of Hunig's base (38.2 mL, 219 mmol, 2.3 equiv.). The cooling bath was then removed and the reaction mixture was allowed to warm to room temperature and stirred overnight. Starting material was consumed as determined by TLC. The reaction mixture was then diluted with methylene chloride (200 mL) and washed with H2O (500 mL), brine (250 mL). The organic layer was dried over anhydrous MgSO4, evaporated under vacuum to yield 2-(4-Bromo-benzenesulfonylamino)-3-methyl-butyric acid tert-butyl ester in quantitative yield (35.0 g).

reactant | 4-Bromo-benzenesulfonyl chloride | 95.4 mmol, 24.37 g, 1 equiv | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | H-D-Val-OtBu | 95.4 mmol, 20 g, 1 equiv. | N[C@H](C(C)C)C(=O)OC(C)(C)C | C9H19NO2
reactant | Hunig's base | 219 mmol, 38.2 mL, 2.3 equiv. | CCN(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 350 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Bromo-benzenesulfonylamino)-3-methyl-butyric acid tert-butyl ester | quantitative yield | C(C)(C)(C)OC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)Br)=O | C15H22BrNO4S
